US08293762B2
N-Benzhydrylidene-N′-isoquinolin-5-yl-hydrazine
To a suspension of 5-bromoisoquinoline (200 mg, 0.96 mmol), benzhydrylidene-hydrazine (189 mg, 0.96 mmol), palladium diacetate (2.2 mg, 0.0096 mmol) and 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (BINAP, 6 mg, 0.0096 mmol) in dry toluene (1 mL), sodium tert-butoxide (130 mg, 1.34 mmol) was added and the mixture was heated at 85° C. for 4 hours. The mixture, cooled to room temperature, was filtered over celite and the pad was washed with diethylether. The solvent was evaporated under vacuum and the residue was purified by flash chromatography with hexane/ethylacetate 7/3 as eluant, affording 268 mg of the title compound (86% yield).

reactant | 5-bromoisoquinoline | 0.96 mmol, 200 mg | BrC1=C2C=CN=CC2=CC=C1 | C9H6BrN
reactant | benzhydrylidene-hydrazine | 0.96 mmol, 189 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | sodium tert-butoxide | 1.34 mmol, 130 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium diacetate | 0.0096 mmol, 2.2 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
catalyst | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.0096 mmol, 6 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | N-Benzhydrylidene-N′-isoquinolin-5-yl-hydrazine | 268 mg, 86% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NNC1=C2C=CN=CC2=CC=C1 | C22H17N3
